US08685969B2
1. Ethyl 6-bromo-3-(2-methyl-3-nitrobenzoyl)-1H-indole-2-carboxylate
To a solution of ethyl 6-bromo-1H-indole-2-carboxylate (4.40 g, 16.41 mmol) in dichloromethane (70 mL) at 0° C. was added tin (IV) chloride in dichloromethane (20.51 mL, 20.51 mmol) over 15 min. The resulting yellow heterogeneous mixture was stirred at room temperature for 30 min before a solution 2-methyl-3-nitrobenzoyl chloride (4.42 g, 22.16 mmol) in nitromethane (70 mL) was added over 20 min. The mixture was stirred at room temperature for 4 hr and then poured into ice-cold water (200 mL). The resulting mixture was stirred at room temperature for 20 min and diluted with ethyl acetate (800 ml). The mixture was washed with water (100 mL), saturated NaHCO3 solution (2×100 ml), water (100 mL), and brine (100 mL). The organic solution was dried over anhydrous MgSO4. Removal of solvent under vacuum gave the desired product (7.04 g, 16.33 mmol, 99% yield) as yellow solid.

reactant | ethyl 6-bromo-1H-indole-2-carboxylate | 16.41 mmol, 4.40 g | BrC1=CC=C2C=C(NC2=C1)C(=O)OCC | C11H10BrNO2
reactant | tin (IV) chloride | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-methyl-3-nitrobenzoyl chloride | 22.16 mmol, 4.42 g | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
solvent | nitromethane | 70 mL | [N+](=O)([O-])C | CH3NO2
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 20.51 mmol, 20.51 mL | ClCCl | CH2Cl2
product | Ethyl 6-bromo-3-(2-methyl-3-nitrobenzoyl)-1H-indole-2-carboxylate | 16.33 mmol, 7.04 g, 99% yield | BrC1=CC=C2C(=C(NC2=C1)C(=O)OCC)C(C1=C(C(=CC=C1)[N+](=O)[O-])C)=O | C19H15BrN2O5
